US08497264B2
A flask was charged with (S)-5-amino-2′-bromo-4′-fluoro-2,6-dihydrospiro[[1,4]oxazine-3,9′-xanthen]-7′-ol (10 mg, 0.026 mmol) and dioxane (0.6 mL). Triethylamine (10.5 μL, 0.076 mmol) and di-tert-butyl dicarbonate (0.017 g, 0.076 mmol) were added, and the solution was stirred at RT for 14 h. The material was taken up in 1 M aqueous HCl (10 mL) and the aqueous phase was extracted with DCM (3×20 mL). The organics were combined, dried over sodium sulfate and concentrated. The material was purified by chromatography (30% ethyl acetate/hexane) to afford 12 mg of (5)-tert-butyl 2′-bromo-4′-fluoro-7′-hydroxy-2,6-dihydrospiro[[1,4]oxazine-3,9′-xanthene]-5-ylcarbamate.

reactant | (S)-5-amino-2′-bromo-4′-fluoro-2,6-dihydrospiro[[1,4]oxazine-3,9′-xanthen]-7′-ol | 0.026 mmol, 10 mg | NC1=N[C@]2(C3=CC(=CC=C3OC=3C(=CC(=CC23)Br)F)O)COC1 | C16H12BrFN2O3
reactant | dioxane | 0.6 mL | O1CCOCC1 | C4H8O2
reactant | Triethylamine | 0.076 mmol, 10.5 μL | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 0.076 mmol, 0.017 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | HCl | 1 M, 10 mL | Cl | ClH
product | (5)-tert-butyl 2′-bromo-4′-fluoro-7′-hydroxy-2,6-dihydrospiro[[1,4]oxazine-3,9′-xanthene]-5-ylcarbamate | 12 mg | BrC1=CC=2[C@@]3(C4=CC(=CC=C4OC2C(=C1)F)O)COCC(=N3)NC(OC(C)(C)C)=O | C21H20BrFN2O5
